US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.05 g, 0.152 mmol), 3-methoxyphenylboronic acid (0.025 g, 0.167 mmol), Pd2(dba)3 (0.017 g, 0.03 mmol), X-phos (0.029 g, 0.06 mmol) and Na2CO3 (0.048 g, 0.456 mmol) in dioxane (20 mL) and water (5 mL) was heated to 100° C. for 16 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate:petroleum ether=1:10) to afford 6-(3-methoxyphenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (25 mg, 41%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.76 (s, 1H), 7.95 (s, 1H), 7.56 (s, 1H), 7.47-7.32 (m, 4 h), 7.03-6.99 (m, 1H), 6.23 (d, 1H, J=7.5 Hz), 6.03 (d, 1H, J=8.4 Hz), 4.25-4.21 (m, 1H), 3.86 (s, 3H), 3.62-3.56 (m, 1H), 3.44-3.35 (m, 1H), 2.17-1.99 (m, 3H), 1.74-1.71 (m, 1H), 1.17 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 401, tR=1.961 min, HPLC: 95.06% at 214 nm, 98.71% at 254 nm, tR=7.643 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.152 mmol, 0.05 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 3-methoxyphenylboronic acid | 0.167 mmol, 0.025 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | X-phos | 0.06 mmol, 0.029 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.456 mmol, 0.048 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.03 mmol, 0.017 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(3-methoxyphenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 25 mg, 41% | COC=1C=C(C=CC1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C23H24N6O
